US04524006
N-[1-[1-(2-Hydroxyethyl)hydrazinecarboxamido]methyl1,3,3-trimethyl-5-cyclohexyl]-1-(2-hydroxyethyl)-hydrazinecarboxamide
To a rapidly stirred mixture of 2-hydroxyethylhydrazine 16.74 g (0.22 moles) in 250 ml tetrahydrofuran was added dropwise isophorone diisocyanate ◯2 in 0.10 moles (22.23 g) in 180 ml tetrahydrofuran. After addition was complete, the solution was clear and colorless. The solution was stirred for an additional three hours at room temperature. The solvent was removed by rotary evaporation to yield a colorless syrup. Characterization by IR and NMR showed it to be predominantly the postulated structure. The sample was utilized without further purification in screening for antioxidant effectiveness.

reactant | 2-hydroxyethylhydrazine | 0.22 moles, 16.74 g | OCCNN | C2H8N2O
reactant | isophorone diisocyanate | O=C=NC1CC(CN=C=O)(CC(C1)(C)C)C | C12H18N2O2
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
product | N-[1-[1-(2-Hydroxyethyl)hydrazinecarboxamido]methyl1,3,3-trimethyl-5-cyclohexyl]-1-(2-hydroxyethyl)-hydrazinecarboxamide | OCCN(N)C(=O)NCC1(CC(CC(C1)NC(=O)N(N)CCO)(C)C)C | C16H34N6O4
